US08084448B2
D. 2-(3-Benzyloxy-4-nitrobenzyl)-cyclohexanone
To a stirred solution of diisopropylamine (0.44 mL, 3.1 mmol) in THF (5 mL) at 0° C. was added n-butyllithium (1.6 M in hexane, 1.94 mL, 3.1 mmol) dropwise and the solution is stirred for 20 min. After cooling the solution to −78° C., a solution of cyclohexanone (0.32 ml., 3.1 mmol) in THF (2 mL) is added dropwise. The solution is stirred at −78° C. for 1 h then a solution of 2-benzyloxy-4-bromomethyl-1-nitrobenzene (1.0 g, 3.1 mmol) in THF (3 mL) is added dropwise. The solution was warmed to RT and stirred for 18 h. Saturated NaHCO3 is added and the mixture is extracted with EtOAc. The organic layer is washed with water then brine and dried over MgSO4. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using a gradient of 20-33% EtOAc/hexane as eluent to give the title compound as a yellow liquid. NMR (CDCl3): δ 7.79-7.77 (d, J=8.33 Hz, 1H), 7.46-7.31 (m, 5H), 6.93 (d, J=1.51 Hz, 1H), 6.81-6.79 (dd, J=1.52 Hz, 8.34 Hz, 1 H), 5.22 (s, 2H), 3.20-3.16 (m, 1H), 2.53-2.39 (m, 2H), 2.33-2.25 (m, 1H), 2.11-2.05 (m, 1H), 1.96-1.90 (m, 1H), 1.85-1.79 (m, 1H), 1.66-1.55 (m, 2H), 1.35-1.25 (m, 2H).

reactant | diisopropylamine | 3.1 mmol, 0.44 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 3.1 mmol, 1.6 M, 1.94 mL | C(CCC)[Li]
reactant | cyclohexanone | 3.1 mmol, 0.32 ml | C1(CCCCC1)=O | C6H10O
reactant | 2-benzyloxy-4-bromomethyl-1-nitrobenzene | 3.1 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CBr)[N+](=O)[O-] | C14H12BrNO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(3-Benzyloxy-4-nitrobenzyl)-cyclohexanone | C(C1=CC=CC=C1)OC=1C=C(CC2C(CCCC2)=O)C=CC1[N+](=O)[O-] | C20H21NO4
